US08106190B2
Cyclopentylamine and potassium carbonate were added to a DMF solution of 4-bromo-2-fluorobenzonitrile, followed by stirring at 60° C. By post-treating the reaction liquid, 4-bromo-2-(cyclohexylamino)benzonitrile was obtained. By making reference to the method described in J. Am. Chem. Soc.; 1996; 118; 7215-7216, this was allowed to react with piperidine to obtain 2-(cyclohexylamino)-4-piperidin-1-ylbenzonitrile.

reactant | Cyclopentylamine | C1(CCCC1)N | C5H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-fluorobenzonitrile | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-bromo-2-(cyclohexylamino)benzonitrile | BrC1=CC(=C(C#N)C=C1)NC1CCCCC1 | C13H15BrN2
